datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])[H:11])([H:8])([H:9])[H:10].[C:17]([c:18]1[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]1[H:31])([H:24])([H:25])[H:26]>>[C:0]([C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])([H:11])[C:22]1([H:30])[C:21]([H:29])=[C:20]([H:28])[C:19]([H:27])=[C:18]([C:17]([H:24])([H:25])[H:26])[C:23]1[H:31])([H:8])([H:9])[H:10],47.2354
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]=[C:11]([H:14])[H:15])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:10]([C:9]([H:12])[H:13])=[C:11]([H:14])[H:15])[H:4],46.1077
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[C:4](=[O:5])[H:14])([H:6])[H:7]>>[C:0](=[C:1]([C:3]([H:11])([H:12])[H:13])[C:4](=[O:5])[H:14])([H:6])[H:7].[C:2]([H:8])([H:9])[H:10],109.99736
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([O:4][O:5][H:14])([H:12])[H:13])[H:8])([H:6])[H:7].[O:15][O:16]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([O:4][O:5][H:14])([H:12])[H:13])[H:8])([H:6])([H:7])[O:15][O:16],-4.22952192
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([C:7](=[C:8]([H:20])[H:21])[H:19])[H:18])[H:17])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]1([C:6]([C:7](=[C:8]([H:20])[H:21])[H:19])[H:18])[H:17])[H:11])([H:9])[H:10],92.843
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17][O:18][C:19](=[O:20])[H:21]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][O:17][O:18][C:19](=[O:20])[H:21],51.29584
[C:0](=[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([C:6]([C:7](=[C:8]([C:9]([H:24])([H:25])[H:26])[H:23])[H:22])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([C:8]([C:9]([H:24])([H:25])[H:26])[H:23])[H:22])[H:12])([H:10])[H:11],67.6553
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([C:11](=[C:12]([H:16])[H:17])[H:15])([H:13])[H:14]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:10]([C:11](=[C:12]([H:16])[H:17])[H:15])([H:13])[H:14],87.864
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]([C:6](=[C:7]([C:8]([H:19])([H:20])[H:21])[H:18])[H:17])([H:15])[H:16])([H:13])[H:14])[H:9]>>[C:0](#[C:1][C:2]1([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])[C:7]1([C:8]([H:19])([H:20])[H:21])[H:18])[H:9],88.4916
[S:0]([c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7].[S:13][H:14]>>[H:7][S:13][H:14].[S:0][c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12],-5.8576
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([C:12]([C:13](=[C:14]([H:30])[H:31])[H:29])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16]>>[C:0]([C:1]([H:4])[H:5])([H:2])([H:3])[C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([C:12]([C:13](=[C:14]([H:30])[H:31])[H:29])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16],30.5432
[C:0]([C:1]([O:2][O:3][H:13])([C:4]([C:5]([H:14])([H:15])[H:16])([C:6]([H:17])([H:18])[H:19])[O:7][O:8])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([O:2][O:3][H:13])([C:4]([C:5]([H:15])[H:16])([C:6]([H:17])([H:18])[H:19])[O:7][O:8][H:14])[H:12])([H:9])([H:10])[H:11],140.164
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4][H:12])[H:8])([H:5])([H:6])[H:7].[C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4])[H:8])([H:5])([H:6])[H:7].[H:12][C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16],-35.9824
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6])([H:17])[H:18])([H:15])[H:16])([O:7][O:8][H:19])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:12])([H:17])[H:18])([H:15])[H:16])([O:7][O:8][H:19])[H:14])[H:13])([H:9])([H:10])[H:11],69.4544
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[H:10])([H:8])[H:9].[C:20](=[C:21]([C:22]([C:23]([H:29])([H:30])[H:31])[C:24](=[C:25]([H:33])[H:34])[H:32])[H:28])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])([C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[C:22]([C:21](=[C:20]([H:26])[H:27])[H:28])([C:23]([H:29])([H:30])[H:31])[C:24](=[C:25]([H:33])[H:34])[H:32])[H:10])([H:8])[H:9],75.8978
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[C:16](=[C:17]([H:19])[H:20])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])([H:9])[C:16](=[C:17]([H:19])[H:20])[H:18])[H:8])([H:6])[H:7],10.6274
